US06476059B1
6.9 g of 5-(2,2,3,3,3-pentafluoropropoxy)-1-indanone are dissolved in 100 ml of ethyl acetate, and a solution of 3.9 g of bromine in 15 ml of ethyl acetate is added dropwise. The solution is briefly heated to reflux before the remainder of the bromine solution is added dropwise. It is then stirred at room temperature for 2 h. The reaction solution is concentrated in vacuo and affords 2-bromo-5-(2,2,3,3,3-pentafluoropropoxy)-1-indanone as an oil which is employed without further purification in the next stage.

reactant | 5-(2,2,3,3,3-pentafluoropropoxy)-1-indanone | 6.9 g | FC(COC=1C=C2CCC(C2=CC1)=O)(C(F)(F)F)F | C12H9F5O2
reactant | bromine | 3.9 g | BrBr | Br2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 15 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-5-(2,2,3,3,3-pentafluoropropoxy)-1-indanone | BrC1C(C2=CC=C(C=C2C1)OCC(C(F)(F)F)(F)F)=O | C12H8BrF5O2
